US04385177
(b) Z-2-(Fur-2-yl)-2-phenoxycarbamoylmethoxyiminoacetic acid
This compound was prepared as described in Preparation 4 from phenyl chloroacetohydroxamate and Z-2-(fur-2-yl)-2-hydroxyiminoacetic acid. νmax (CHBr3) 3350 (NH), 3700-2100 (bonded OH), 1754, 1725 (--CO2H), 1705, 1680 cm-1 (--CONH--), τ(DMSO d6) 2.05, 3.11, 3.29 (furyl), 5.3 (--OCH2CO--), 2.4-3.1 (phenyl). Yield 50%.

reactant | phenyl chloroacetohydroxamate | ClCC(=O)NOC1=CC=CC=C1 | C8H8ClNO2
reactant | Z-2-(fur-2-yl)-2-hydroxyiminoacetic acid | O1C(=CC=C1)/C(/C(=O)O)=N/O | C6H5NO4
reactant | CHBr3 | C(Br)(Br)Br | CHBr3
solvent | DMSO | CS(=O)C | C2H6OS
product | Z-2-(Fur-2-yl)-2-phenoxycarbamoylmethoxyiminoacetic acid | Yield 50% | O1C(=CC=C1)/C(/C(=O)O)=N/OCC(NOC1=CC=CC=C1)=O | C14H12N2O6
